US08633001B2
Production of Diethyl 2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinate (Ethyl Chloroacetate Method)
A suspension of diethyl 2-benzyloxycarbonylaminomalonate (5.0 g), potassium carbonate (2.7 g), potassium iodide (0.27 g), and ethyl 2-chloroacetate (2.6 g) in DMF (50 mL) was stirred at 50° C. for 1 hour. The reaction mixture was cooled, and then poured into diluted hydrochloric acid, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from ethyl acetate/n-hexane to obtain the title compound (5.5 g, yield: 86%) as colorless crystals.

reactant | diethyl 2-benzyloxycarbonylaminomalonate | 5.0 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)C(=O)OCC | C15H19NO6
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.27 g | [I-].[K+]
reactant | ethyl 2-chloroacetate | 2.6 g | ClCC(=O)OCC | C4H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-benzyloxycarbonylamino-2-ethoxycarbonylsuccinate | 5.5 g, yield: 86% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)(CC(=O)OCC)C(=O)OCC | C19H25NO8
